US05149843
To a solution of ethyl 2-(dimethylphosphono)-3-methylbutyrate (11.0 g, 41.3 mmol) in tetrahydrofuran (50 ml) chilled at -68° C. was dropwise added 1.62M solution of n-butyllithium in hexane (21.6 ml, 35.0 mmol) with stirring in 15 minutes under argon atmosphere. After stirring at -72° C. for 15 minutes, the mixture was mixed with geranial (4.0 g, 26.3 mmol), warmed up to room temperature in 30 minutes and stirred for 5 hours. The reaction mixture was chilled on an ice bath and mixed with saturated aqueous ammonium chloride (100 ml) and hexane (100 ml). The organic layer was separated, washed with saturated aqueous sodium chloride (50 ml), dried over anhydrous sodium sulfate, and concentrated under reduced pressure to remove the solvent. The resulting residue was chromatographed on a silica gel column (Eluent: n-hexane:ether=30:1) to give ethyl 2-(1-methylethyl)-5,9-dimethyl-2,4,8-decatrienate (3,07 g, 48%).

reactant | ethyl 2-(dimethylphosphono)-3-methylbutyrate | 41.3 mmol, 11.0 g | COP(=O)(OC)C(C(=O)OCC)C(C)C | C9H19O5P
reactant | n-butyllithium | C(CCC)[Li]
reactant | geranial | 26.3 mmol, 4.0 g | CC(C)=CCC\C(\C)=C\C=O | C10H16O
reactant | ammonium chloride | 100 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | hexane | 100 ml | CCCCCC | C6H14
solvent | hexane | 35.0 mmol, 21.6 ml | CCCCCC | C6H14
product | ethyl 2-(1-methylethyl)-5,9-dimethyl-2,4,8-decatrienate | 3,07 g, 48% | CC(C)C(C(=O)OCC)=CC=C(CCC=C(C)C)C | C17H28O2
